US08835648B2
2-[2-Chloro-5-(4-ethoxycarbonyl-piperidin-1-yl)-phenyl]-5-fluoro benzoimidazole-1-carboxylic acid tert-butyl ester
Method 3,4—Step d 2-(5-Bromo-2-chloro-phenyl)-5-fluoro-benzoimidazole-1-carboxylic acid tert-butyl ester (1.04 g, 2.46 mmol), piperidine-4-carboxylic acid ethyl ester (0.49 mL, 3.19 mmol) and cesium carbonate (3.99 g, 12.29 mmol) were placed into a dry Schlenk tube under nitrogen. At the same time palladium acetate (0.11 g, 0.49 mmol), and BINAP (0.46 g, 0.74 mmol) were placed into a dry 7 mL vial under nitrogen. Then dry toluene (4 mL) was added and the mixture was stirred 20 minutes under nitrogen before being added to the first flask. The reaction mixture was heated at 80° C. overnight, cooled to room temperature, salts were filtered off, the organic solution was concentrated under reduced pressure and crude was purified by flash chromatography (eluent: cyclohexane:AcOEt gradient from cyclohexane:AcOEt/5:1 to 1:2) to afford 0.84 g of the title compound (68%).

reactant | 2-(5-Bromo-2-chloro-phenyl)-5-fluoro-benzoimidazole-1-carboxylic acid tert-butyl ester | 2.46 mmol, 1.04 g | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=CC(=C2)F)C2=C(C=CC(=C2)Br)Cl | C18H15BrClFN2O2
reactant | piperidine-4-carboxylic acid ethyl ester | 3.19 mmol, 0.49 mL | C(C)OC(=O)C1CCNCC1 | C8H15NO2
reactant | cesium carbonate | 12.29 mmol, 3.99 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | BINAP | 0.74 mmol, 0.46 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
catalyst | palladium acetate | 0.49 mmol, 0.11 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
product | 2-[2-Chloro-5-(4-ethoxycarbonyl-piperidin-1-yl)-phenyl]-5-fluoro benzoimidazole-1-carboxylic acid tert-butyl ester | 0.84 g, 68% | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=CC(=C2)F)C2=C(C=CC(=C2)N2CCC(CC2)C(=O)OCC)Cl | C26H29ClFN3O4
